US07820704B2
To a THF solution of [4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amine (80 mg, 0.25 mmol) and tert-butyl bromoacetate (41 μL, 0.28 mmol) was added NaH (15 mg, 60%, 0.38 mmol) and the resulting mixture was stirred at room temperature for 30 min. The reaction was quenched with brine and extracted with ethyl acetate (3×5 mL). Combined ethyl acetate extracts were dried over sodium sulfate, concentrated and purified on silica gel column to afford 2-{thiophen-2-ylmethyl-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-amino}acetic acid tert-butyl ester (75 mg). LCMS m/z: 430 (M+1)+.

reactant | [4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amine | 0.25 mmol, 80 mg | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)NCC=1SC=CC1 | C17H18N2S2
reactant | tert-butyl bromoacetate | 0.28 mmol, 41 μL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | NaH | 0.38 mmol, 15 mg | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-{thiophen-2-ylmethyl-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-amino}acetic acid tert-butyl ester | 75 mg | C(C)(C)(C)OC(CN(C=1SC=C(N1)C1=CC=C(C=C1)C(C)C)CC=1SC=CC1)=O | C23H28N2O2S2
